US08623889B2
N-(7-(2,5-dimethylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide (49.0 mg, 168 mmol), 2,5-dimethylphenylboronic acid (52.0 mg, 347 woe, bis(di-tert-butyl(4-dimethylaminophenyl)-phosphine)dichloropalladium(II) (7.2 mg, 10 μmol) and aqueous sodium carbonate (1.0 M, 0.5 mL) and acetonitrile (1.5 mL) was heated under microwave irradiation (Biotage, 200 watts) at 120° C. for 10 minutes. The cooled reaction mixture was partitioned between ethyl acetate (20 mL) and water (20 mL), and the separated aqueous phase extracted with ethyl acetate (20 mL). The combined organic phases were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a clear oil. The crude residue was purified by reverse phase HPLC (gradient of acetonitrile in water with 0.1% formic acid) to yield the title compound as a white amorphous solid (42.3 mg, 79%). 1H NMR (400 MHz, DMSO) δ 10.88 (s, 1H), 9.16 (s, 1H), 8.48 (s, 1H), 7.98 (s, 1H), 7.89 (d, J=8.6 Hz, 1H), 7.68 (dd, J=8.5, 1.7 Hz, 1H), 7.22 (d, J=8.2 Hz, 1H), 7.15-7.11 (m, 2H), 2.33 (s, 3H), 2.23 (s, 3H), 2.12-2.03 (m, 1H), 0.91-0.78 (m, 4H). LCMS (Method E): RT=5.442 min, M+H+=317.1.

reactant | N-(7-bromoisoquinolin-3-yl)cyclopropanecarboxamide | 168 mmol, 49.0 mg | BrC1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C13H11BrN2O
reactant | 2,5-dimethylphenylboronic acid | CC1=C(C=C(C=C1)C)B(O)O | C8H11BO2
reactant | sodium carbonate | 1.0 M, 0.5 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)-phosphine)dichloropalladium(II) | 10 μmol, 7.2 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | N-(7-(2,5-dimethylphenyl)isoquinolin-3-yl)cyclopropanecarboxamide | 42.3 mg, 79% | CC1=C(C=C(C=C1)C)C1=CC=C2C=C(N=CC2=C1)NC(=O)C1CC1 | C21H20N2O
